US07211579B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-hydroxymethyl-phenyl)-6-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide (compound I-2)
To a mixture of 15 mg (0.41 mmol) sodium borohydride in 2 ml methanol were added at 0° C. 200 mg (0.338 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-formyl-phenyl)-6-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide. After stirring at 0° C. for 1 h 1 ml brine was added at 0° C. The mixture was stirred for 30 min. Methanol was distilled off and the residue was diluted with 20 ml ethyl acetate and washed with 20 ml brine. The organic layer was dried over sodium sulfate, concentrated and purified by flash chromatography to give 137 mg (68%) of the title compound as a light brown solid.

reactant | sodium borohydride | 0.41 mmol, 15 mg | [BH4-].[Na+]
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-formyl-phenyl)-6-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.338 mmol, 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C=O)N1CCN(CC1)C)(C)C)(F)F | C30H30F6N4O2
solvent | methanol | 2 ml | CO | CH4O
solvent | brine | 1 ml | [Cl-].[Na+].O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-hydroxymethyl-phenyl)-6-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 137 mg, 68% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1CCN(CC1)C)(C)C)(F)F | C30H32F6N4O2
